US06844344B2
Preparation of (2S)-(+)-1-(2,3-Dihydrobenzo[b]furan-4-yl)oxy-3-(4-(6-fluoronaphth-2-yl)piperidin-1-yl)-2-propanol.
A solution 4-(6-fluoronaphth-2-yl)piperidine (0.075 g, 0.327 mmol) and (S)-(+)-4-(oxiranylmethoxy)-2,3-dihydrobenzo[b]furan (0.063 g, 0.327 mmol) in methanol (3 mL) was heated at reflux for 18 hours and then cooled and evaporated. The residue was purified using silica gel chromatography (dichloromethane/5% methanol in dichloromethane gradient elution) to give the title compound as a white amorphous solid (0.036 g, 26%). FDMS m/e=422 (M++1). [α]D=21.65 (c 0.508, methanol). C26H28FNO3.

reactant | 4-(6-fluoronaphth-2-yl)piperidine | 0.327 mmol, 0.075 g | FC=1C=C2C=CC(=CC2=CC1)C1CCNCC1 | C15H16FN
reactant | (S)-(+)-4-(oxiranylmethoxy)-2,3-dihydrobenzo[b]furan | 0.327 mmol, 0.063 g | O1[C@@H](C1)COC1=CC=CC=2OCCC21 | C11H12O3
solvent | methanol | 3 mL | CO | CH4O
product | (2S)-(+)-1-(2,3-Dihydrobenzo[b]furan-4-yl)oxy-3-(4-(6-fluoronaphth-2-yl)piperidin-1-yl)-2-propanol | 0.036 g, 26% | O1C2=C(CC1)C(=CC=C2)OC[C@H](CN2CCC(CC2)C2=CC1=CC=C(C=C1C=C2)F)O | C26H28FNO3
